US07307088B2
N-(4,4-Dimethyl-1,2,3,4-tetrahydro-isoquinolin-7-yl)-2-[1-(2-methylamino-pyrimidin-4-yl)-ethylamino]-benzamide
In a manner similar to that described in Example 127, to a solution of tert-butyl 4,4-dimethyl-7-{2-[1-(2-methylamino-pyrimidin-4-yl)-ethylamino]-benzoylamino}-3,4-dihydro-1H-isoquinoline-2-carboxylate (250 mg, 0.471 mmol) in CH2Cl2 (5 mL) was added TFA (3 mL) to give the final product. MS m/z: 431.3 (M+H). Calc'd. for C25H31N6O-431.55.

reactant | tert-butyl 4,4-dimethyl-7-{2-[1-(2-methylamino-pyrimidin-4-yl)-ethylamino]-benzoylamino}-3,4-dihydro-1H-isoquinoline-2-carboxylate | 0.471 mmol, 250 mg | CC1(CN(CC2=CC(=CC=C12)NC(C1=C(C=CC=C1)NC(C)C1=NC(=NC=C1)NC)=O)C(=O)OC(C)(C)C)C | C30H38N6O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4,4-Dimethyl-1,2,3,4-tetrahydro-isoquinolin-7-yl)-2-[1-(2-methylamino-pyrimidin-4-yl)-ethylamino]-benzamide | CC1(CNCC2=CC(=CC=C12)NC(C1=C(C=CC=C1)NC(C)C1=NC(=NC=C1)NC)=O)C | C25H30N6O
